US07947835B2
A solution of 4-[6-(3-amino-2-methyl-phenyl)-imidazo[1,2-a]pyrazin-8-ylamino]-benzonitrile (380 mg; 1.12 mmol) and diisopropylethylamine (187 mg; 1.45 mmol) in anhydrous THF (25 mL) is stirred under nitrogen at rt. A solution of 4-tert-Butyl-benzoyl chloride (230 mg; 1.17 mmol) in 5 mL anhydrous THF is then added dropwise to the stirring reaction solution. After 30 minutes, the mixture is partitioned between ethyl acetate (75 mL) and water (75 mL) and the water layer extracted with ethyl acetate (2×50 mL). The organic layers are pooled, washed with brine and dried over anhydrous sodium sulfate. The filtrate is then concentrated in vacuo and the crude oil dissolved in a minimum volume of CH2Cl2. Diethyl ether is added and the resulting precipitate is filtered and washed with diethyl ether to provide 4-tert-butyl-N-{3-[8-(4-cyano-phenylamino)-imidazo[1,2-a]pyrazin-6-yl]-2-methyl-phenyl}-benzamide as a light orange solid (450 mg)

reactant | 4-[6-(3-amino-2-methyl-phenyl)-imidazo[1,2-a]pyrazin-8-ylamino]-benzonitrile | 1.12 mmol, 380 mg | NC=1C(=C(C=CC1)C=1N=C(C=2N(C1)C=CN2)NC2=CC=C(C#N)C=C2)C | C20H16N6
reactant | diisopropylethylamine | 1.45 mmol, 187 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-tert-Butyl-benzoyl chloride | 1.17 mmol, 230 mg | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-tert-butyl-N-{3-[8-(4-cyano-phenylamino)-imidazo[1,2-a]pyrazin-6-yl]-2-methyl-phenyl}-benzamide | 450 mg | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C(=CC=C2)C=2N=C(C=3N(C2)C=CN3)NC3=CC=C(C=C3)C#N)C)C=C1 | C31H28N6O
